US07951801B2
1-(2-Dimethylamino-ethyl)-5-oxo-pyrrolidine-3-carboxylic acid (6-chloro-9H-β-carbolin-8-yl)-amide
Prepared according to Method B from 6-chloro-9H-β-carboline-8-ylamine and 1-(2-dimethylamino-ethyl)-5-oxo-pyrrolidine-3-carboxylic acid in 70-80% yield as the di-HCl salt. 1H-NMR (300 MHz, D2O): δ 2.97 (dd, 1H), 3.03 (s, 6H), 3.08 (dd, 1H), 3.51 (t, 2H), 3.76-3.89 (m, 3H), 3.95 (dd, 1H), 4.01 (dd, 1H), 7.75 (d, 1H), 8.24 (d, 1H), 8.45 (dd, 1H), 8.52 (dd, 1H), 9.10 (bs, 1H). Retention Time (LC, method: ammonium acetate standard): 0.99 min. MS (M+H+): 400.

reactant | 6-chloro-9H-β-carboline-8-ylamine | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)N | C11H8ClN3
reactant | 1-(2-dimethylamino-ethyl)-5-oxo-pyrrolidine-3-carboxylic acid | CN(CCN1CC(CC1=O)C(=O)O)C | C9H16N2O3
reactant | di-HCl | C1=CC(=NN=C1NN)N(CCO)CCO.Cl.Cl
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
product | 1-(2-Dimethylamino-ethyl)-5-oxo-pyrrolidine-3-carboxylic acid (6-chloro-9H-β-carbolin-8-yl)-amide | 70-80% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1CN(C(C1)=O)CCN(C)C | C20H22ClN5O2
